US06204264B1
N-[3-(Dimethylamino)propyl]-1-octadecyl-1H-benzimidazole-2-carboxamide monohydrochloride (Compound 29)
4N Hydrochloric acid/ethyl acetate solution (0.25 ml) was added to a solution containing N-[3-(dimethylamino)propyl]-1-octadecyl-1H-benzimidazole-2-carboxamide (0.499 g) in ethyl acetate (5 ml) and stirred for 10 minutes at room temperature. The reaction mixture, with ethanol (0.3 ml) and ethyl acetate (1 ml) added thereto, was dissolved by heating and then cooled naturally. The depositing crystals were collected by filtration, thereby yielding the entitled compound (0.419 g) as white solid.

reactant | Hydrochloric acid ethyl acetate | 4N, 0.25 ml | Cl.C(C)(=O)OCC
reactant | N-[3-(dimethylamino)propyl]-1-octadecyl-1H-benzimidazole-2-carboxamide | 0.499 g | CN(CCCNC(=O)C1=NC2=C(N1CCCCCCCCCCCCCCCCCC)C=CC=C2)C | C31H54N4O
reactant | ethanol | 0.3 ml | C(C)O | C2H6O
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | N-[3-(Dimethylamino)propyl]-1-octadecyl-1H-benzimidazole-2-carboxamide monohydrochloride | 0.419 g | Cl.CN(CCCNC(=O)C1=NC2=C(N1CCCCCCCCCCCCCCCCCC)C=CC=C2)C | InChI=1S/C31H54N4O.ClH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-21-27-35-29-24-20-19-23-28(29)33-30(35)31(36)32-25-22-26-34(2)3;/h19-20,23-24H,4-18,21-22,25-27H2,1-3H3,(H,32,36);1H
